US07300933B2
2-Chloro-5-phenyl-1,3,4-thiadiazole (Intermediate Compound)
A mixture of 2-amino-5-phenyl-1,3,4-thiadiazole sulphate (10.0 g, 56.4 mmol) and conc. hydrochloric acid (100 ml) was stirred at 0° C. Sodium nitrite (5.06 g, 69 mmol) was added at 0° C. The mixture was stirred for 9 days at room temperature. The crystals were filtered and resuspended in aqueous hydrochloric acid (150 ml, 1M), stirred overnight and filtered. Aqueous sodium hydroxide (100 ml, 4 M) was added and extracted with ethyl acetate. Yield 5.68 g.

reactant | 2-amino-5-phenyl-1,3,4-thiadiazole sulphate | 56.4 mmol, 10.0 g | S(=O)(=O)(O)O.NC=1SC(=NN1)C1=CC=CC=C1
reactant | Sodium nitrite | 69 mmol, 5.06 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 100 ml | Cl | ClH
product | 2-Chloro-5-phenyl-1,3,4-thiadiazole | ClC=1SC(=NN1)C1=CC=CC=C1 | C8H5ClN2S
